US09062032B2
By using 169 mg of N-(4-hydroxyphenyl)-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide and 95 mg of methyl 4-(bromomethyl)benzoate, 193 mg of methyl 4-[(4-{[(2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenoxy)methyl]benzoate was obtained by the method similar to Preparation Example 30.

reactant | N-(4-hydroxyphenyl)-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 169 mg | OC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(C2=CC(=CC=C2)CN2CCOCC2)=O | C27H29N3O4S
reactant | methyl 4-(bromomethyl)benzoate | 95 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
product | methyl 4-[(4-{[(2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenoxy)methyl]benzoate | 193 mg | N1(CCOCC1)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(OCC4=CC=C(C(=O)OC)C=C4)C=C2)CCCC3)C=CC1 | C36H37N3O6S
